US06429214B1
{6-[3-(Pyrimidin-2-ylamino)-propoxy]-1,2,3,4-tetrahydro- naphthalen-2-yl}-acetic acid
To a solution of {6-[3-(pyrimidin-2-ylamino)-propoxy]-1,2,3,4-tetrahydro-naphthalen-2-yl}-acetic acid methyl ester (0.09 g) in 1,4-dioxane (5 mL) was added a solution of LiOH.H2O (0.04 g) in H2O (2 mL) and the reaction was heated to 100° C. for 1 h. The reaction was cooled to room temperature and concentrated under reduced pressure. Water was added to the residue and the mixture was cooled in an ice bath. The mixture was brought to pH 5 by the addition of 1N HCl. The aqueous suspension was extracted with CH2Cl2 and CHCl3. The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified using silica gel chromatography. Elution with 10% MeOH/CH2Cl2 gave the title compound as a white solid (14 mg). NMR (300 MHz, MeOH-d4) δ8.24 (broad s, 2H), 7.32 (broad s, 1H), 6.82 (d, J=8.25 Hz, 1H), 6.68-6.63 (m, 2H), 6.52 (t, J=4.76 Hz, 1H), 4.08 (t, J=6.11 Hz, 2H), 3.63 (d, J=5.59 Hz, 2H), 2.83 (dd, J=15.90, 3.70 Hz, 1H), 2.71 (d, J=3.32 Hz, 2H), 2.42-2.34 (m, 3H), 2.11 (dd, J=11.82, 5.88 Hz, 3H), 1.90 (d, J=11.76 Hz, 1H), 1.46-1.32 (m, 1H); MS (+ESI) m/z 342 (M+H)+; Calculated for C19H23N3O3.0.5 H2O: C, 64.94; H, 6.88; N, 11.96. Found: C, 65.43; H, 6.72; N, 11.48.

reactant | {6-[3-(pyrimidin-2-ylamino)-propoxy]-1,2,3,4-tetrahydro-naphthalen-2-yl}-acetic acid methyl ester | 0.09 g | COC(CC1CC2=CC=C(C=C2CC1)OCCCNC1=NC=CC=N1)=O | C20H25N3O3
reactant | LiOH.H2O | 0.04 g | O[Li].O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
product | {6-[3-(Pyrimidin-2-ylamino)-propoxy]-1,2,3,4-tetrahydro- naphthalen-2-yl}-acetic acid | 14 mg | N1=C(N=CC=C1)NCCCOC=1C=C2CCC(CC2=CC1)CC(=O)O | C19H23N3O3
